US04460596
4 g of N-[(3-thienylcarbonyl)methyl]amine hydrochloride, 8 g of sodium bicarbonate and 3.6 g of benzoyl chloride are treated in the same manner as described in Preparation 1-(3). 5.25 g of N-benzoyl-N-[(3-thienylcarbonyl)methyl]amine are thereby obtained.

reactant | N-[(3-thienylcarbonyl)methyl]amine hydrochloride | 4 g | Cl.S1C=C(C=C1)C(=O)CN
reactant | sodium bicarbonate | 8 g | C([O-])(O)=O.[Na+]
reactant | benzoyl chloride | 3.6 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-benzoyl-N-[(3-thienylcarbonyl)methyl]amine | 5.25 g, Yield: 95% | C(C1=CC=CC=C1)(=O)NCC(=O)C1=CSC=C1 | C13H11NO2S
